US05665718
3.76 g (10 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a]-[1,4]benzodiazepin-9-one were stirred at room temperature overnight with 5 g (39 mmol) of dibutylamine and 25 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 4.3 g (92%) of (S)-8-chloro-1-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 120°-125°.

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a]-[1,4]benzodiazepin-9-one | 10 mmol, 3.76 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11Cl2N5O2
reactant | dibutylamine | 39 mmol, 5 g | C(CCC)NCCCC | C8H19N
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepin-9-one | 4.3 g, 92% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN(CCCC)CCCC)CC1)=O | C24H29ClN6O2
